US08975254B2
a) 2-nitro-4-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)benzonitrile
To a solution of 4-chloro-2-nitrobenzonitrile (15 g, 82 mmol) and 1-(tetrahydro-2H-pyran-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (27.4 g, 99 mmol) in 300 ml of DMF were added bis(triphenylphosphine)palladium (II) chloride (1.12 g; 1.64 mmol), sodium carbonate (22.7 g; 0.16 mol) and water (30 ml). The reaction mixture was heated at 90° C. for 4.5 h, cooled and poured into 500 ml of water. The water phase was extracted twice with EtOAc, and the combined organic fractions were washed with saturated NaHCO3— solution and brine, dried over Na2SO4 and evaporated. The evaporation residual was suspended to EtOH (100 ml) and the remaining solids were filtered to give 17.7 g (72%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.52-1.68 (m, 3H), 1.78-1.87 (m, 1H), 1.91-2.00 (m, 1H), 2.31-2.47 (m, 1H), 3.67-3.76 (m, 1H), 3.99-4.06 (m, 1H), 5.32 (dd, 1H), 6.84 (d, 1H), 7.69 (d, 1H), 8.13 (dd, 1H), 8.32 (d, 1H), 8.60 (d, 1H).

reactant | 4-chloro-2-nitrobenzonitrile | 82 mmol, 15 g | ClC1=CC(=C(C#N)C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | 1-(tetrahydro-2H-pyran-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 99 mmol, 27.4 g | O1C(CCCC1)N1N=CC=C1B1OC(C(O1)(C)C)(C)C | C14H23BN2O3
reactant | sodium carbonate | 0.16 mol, 22.7 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 30 ml | O | H2O
reactant | water | 500 ml | O | H2O
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium (II) chloride | 1.64 mmol, 1.12 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 2-nitro-4-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)benzonitrile | 17.7 g, 72% | [N+](=O)([O-])C1=C(C#N)C=CC(=C1)C1=CC=NN1C1OCCCC1 | C15H14N4O3
